US05245037
60 g of methyl 2,3,4,6-tetrafluorobenzoate and 70 g of benzylamine were reacted under reflux for 1 hour in 400 ml of benzene. After the reaction mixture was allowed to cool down, it was washed successively with water, 1% hydrochloric acid and 1% aq. sodium carbonate, each in the amount of 600 ml. The reaction mixture was treated with anhydrous magnesium sulfate and then concentrated. Crystals thus precipitated were collected by filtration and thereafter washed with methanol. 30 g of the crystals and about 2 ml of palladium/carbon were added to a liquid mixture which consisted of 100 ml of acetic acid and 200 ml of methanol. The resultant mixture was hydrogenated for 1.5 hours. The catalyst was filtered off and the filtrate was concentrated, whereby methyl 6-amino-2,3,4-trifluorobenzoate was obtained as a crystalline residue.

reactant | methyl 2,3,4,6-tetrafluorobenzoate | 60 g | FC1=C(C(=O)OC)C(=CC(=C1F)F)F | C8H4F4O2
reactant | benzylamine | 70 g | C(C1=CC=CC=C1)N | C7H9N
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | methyl 6-amino-2,3,4-trifluorobenzoate | NC1=CC(=C(C(=C1C(=O)OC)F)F)F | C8H6F3NO2
